data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1C(C[NH:10]C1C(=O)O)O.C1=CC=CC=C1.C1=CC=C(C=C1)CO>>[H:20][NH+:10]1CC(CC1C(=O)O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
CN(C)C(=[NH:10])N(C)C.C1=CC=C(C=C1)[CH2:20][Br:21]>>CN(C)C(=[NH+:10][CH2:20]C1=CC=CC=C1)N(C)C.[Br-:21] 10=20;20,21=21
C[Si](C)(C)OC1=C2C(=CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3)O[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F.CC1=[NH+]C(=CC=C1)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[Si:10](C)(C)OC1=CCC2(C3=CC=CC(=C13)O[Si](C)(C)C)OC4=C5C(=CC=C4)C=CC=C5O2.C(F)(F)(F)S(=O)(=O)[O-:11].CC1=[NH+]C(=CC=C1)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=11
CC(C)CC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C3CCCCC3)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC(C)CC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[C-:10]#N.C1C[C:20](=[CH:21][C:22](=[O:23])C1)Cl>>C1C[C:22](=[CH:21][C:20](C1)([C:10]#N)Cl)[O-:23] 10=20;22,23=23;20,21=21,22
C1CC[C:20](CC1)([NH:10]C2=CC=CC=C2)[OH2+:21].CC(=O)[O-]>>C1CC[C:20](=[NH+:10]C2=CC=CC=C2)CC1.[OH2:21].CC(=O)[O-] 10=20;20,21=21
CC[NH:10][C:20](C)(C)[OH2+:21]>>CC[NH+:10]=[C:20](C)C.[OH2:21] 10=20;20,21=21
CC1([OH+:21][CH:20]2[CH:10]=[C:11]3C(CC2O1)(CC(=O)[N:12]3CCC4=CC(=C(C=C4)OC)OC)C(=O)OC)C.C(=O)(C(F)(F)F)[O-]>>CC(C)([OH:21])OC1CC2(CC(=O)[N+:12](=[C:11]2[CH:10]=[CH:20]1)CCC3=CC(=C(C=C3)OC)OC)C(=O)OC.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)C2=CC=C[CH:10]=[C:11]2[O-:12].[C:20](=O)=[O:21].[Na+]>>C1=CC=C(C=C1)C2=CC=C[CH:10]([C:11]2=[O:12])[C:20](=O)[O-:21].[Na+] 10,11=10,20;20,21=21;12=11
[H:20][O:21]CC.CC(=O)CC[CH:10]=[C:11](C)[O-:12]>>[H:20][CH:10](CCC(=O)C)[C:11](=[O:12])C.CC[O-:21] 10,11=10,20;20,21=21;12=11
CCC(C)(C)[N:10](C)C.[CH3:20][I:21]>>CCC(C)(C)[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
C[C:20](=[O:21])OC.[OH-:10]>>C[C:20]([OH:10])([O-:21])OC 10=20;20,21=21
CO[CH:20]=[NH2+:21].[OH2:10].[Cl-]>>CO[CH:20]([NH2:21])[OH2+:10].[Cl-] 10=20;20,21=21
CCO[C:20](C)([O-:10])[Cl:21]>>CCO[C:20](=[O:10])C.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C2[C+:22]1C=CC=C2)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=CC=C[C:21](=[C:22]2C=C1)S(=O)(=O)O 10=20;20,21=21,22
C[Si-:10](C)(C)(OCCO)[Cl:11]>>C[Si:10](C)(C)OCCO.[Cl-:11] 10,11=11
[H:20][CH:21](CCC1=CC(=CC=C1)OC)[C:22](=[O:23])CCC2(C(=O)CCC2=O)C.[OH-:10]>>[H:20][OH:10].CC1(C(=O)CCC1=O)CC[C:22](=[CH:21]CCC2=CC(=CC=C2)OC)[O-:23] 10=20;22,23=23;20,21=21,22
C[C:20]1([O:10]CC[O+:21]1[Si](C)(C)C)C>>C[C:20](=[O+:10]CC[O:21][Si](C)(C)C)C 10=20;20,21=21
CC(=O)OCC1C(C=CC(O1)C=[C+:20][CH2:10][Si-:11](C)(C)(C)[O+]=C(C)O[Sn-](Cl)(Cl)(Cl)Cl)OC(=O)C>>CC(=O)OCC1C(C=CC(O1)C=[C:20]=[CH2:10])OC(=O)C.CC(=[O+][Si:11](C)(C)C)O[Sn-](Cl)(Cl)(Cl)Cl 10,11=10,20
B([O+:21]([CH3:20])C1=C(C=CC=C1CCC)C)(Br)Br.[Br-:10]>>B([O:21]C1=C(C=CC=C1CCC)C)(Br)Br.[CH3:20][Br:10] 10=20;20,21=21
CCCC(=[O:10])N(CCC)CCC.CC(C)C[AlH:20]CC(C)C>>CCCC(=[O+:10][AlH-:20](CC(C)C)CC(C)C)N(CCC)CCC 10=20,
CO[C:13]1=[CH:12][CH:11]=[CH:10]C(=C1)[N+](=O)[O-].O[S+:20](=O)=O>>CO[C+:13]1[CH:12]=[CH:11][CH:10](C(=C1)[N+](=O)[O-])[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][N+:21]1(CCN(CC1)C2=CC(=C(C=C2)Cl)Cl)CC(=O)C3=CC=C(C=C3)C4=CC=CC=C4.C(=O)([O-:10])[O-].CN(C)C=O.[Cl-].[K+]>>[H:20][O:10]C(=O)[O-].C1CN(CC[N:21]1CC(=O)C2=CC=C(C=C2)C3=CC=CC=C3)C4=CC(=C(C=C4)Cl)Cl.CN(C)C=O.[Cl-].[K+] 10=20;20,21=21
CC1=C(C=C2C3CCC(C([C:20]3([NH+:21]4CCCC4)[OH:10])(CC2=C1)C)O)OC.O.[Cl-]>>CC1=C(C=C2C3CCC(C([C:20]3=[OH+:10])(CC2=C1)C)O)OC.C1CC[NH:21]C1.O.[Cl-] 10=20;20,21=21
CC[CH:20](C)[Br:21].C[C:10](=[C:11](C)[O-:12])C>>CC[CH:20](C)[C:10](C)(C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.CN=C=[N:10]C>>[H:20][N+:10](=C=NC)C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]1CC(CC1(O)O)CCC.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CCCC1CC([O:21]C1)(O)O 10=20;20,21=21
[H:20][OH2+:21].C1=CC(=NC=C1)CC[O-:10]>>[H:20][O:10]CCC1=NC=CC=C1.[OH2:21] 10=20;20,21=21
[H:20][N:21]1C=C(C(=O)C2=C1C=CC=C2)C(=O)OCC.[H:10][Na:11].C1CCOC1>>CCOC(=O)C1=C[N-:21]C2=C(C1=O)C=CC=C2.[H:10][H:20].[Na+:11].C1CCOC1 10,11=10,20;20,21=21
[H:20][O:21]CC.C1CCC2(CC(=O)CCC2C1)[O-:10]>>[H:20][O:10]C12CCCCC1CCC(=O)C2.CC[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(=[O:10])C=C.COC(=O)C1=C(C(CCC1)Br)O>>[H:20][O+:10]=C(C)C=C.OS(=O)(=O)[O-:21].COC(=O)C1=C(C(CCC1)Br)O 10=20;20,21=21
CO[C:20](O)([OH:21])[O-:10]>>CO[C:20](=[O:10])O.[OH-:21] 10=20;20,21=21
CO[C:20](=[O:21])CC12CCCC(C1=O)(CCC2[CH:10]=[C:11]([O-:12])OC)C(=O)OC>>CO[C:11](=[O:12])[CH:10]1C2CCC3(CCCC2(C3=O)C[C:20]1([O-:21])OC)C(=O)OC 10,11=10,20;20,21=21;12=11
CN(C)[C:11](=[CH2:10])[O-:12].C1[CH2:20][O:21]1>>CN(C)[C:11](=[O:12])[CH2:10][CH2:20]C[O-:21] 10,11=10,20;20,21=21;12=11
[B-]([OH+:21][CH:20](C1=CC(=C(C(=C1)OC)OC)OC)[CH:11]([C:10]2=C(C(=C(C=C2)OC)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)[OH:12])(F)(F)F.CCOCC>>[B-]([OH:21])(F)(F)F.CC(C)(C)[Si](C)(C)OC1=[C:10](C=CC(=C1O[Si](C)(C)C(C)(C)C)OC)[CH:20]([CH:11]=[OH+:12])C2=CC(=C(C(=C2)OC)OC)OC.CCOCC 10,11=10,20;20,21=21;12=11
